US07547794B2
2-(4-Methoxy-phenyl)-8-methyl-chromen-4-one oxime (I-23)
To a solution of 2-(4-Methoxy-phenyl)-8-methyl-chromene-4-thione (160.0 mg, 0.57 mmol) in 3.5 mL of pyridine was added 118.4 mg (1.70 mmol) of hydroxylamine hydrochloride. The solution was stirred at 110° C. for 1 h. The solvent was removed under vacuum and the residue was treated with ice. The resulting slurry was filtered. The filter cake was washed with H2O and then dried overnight under vacuum to afford 137.0 mg (85.7% yield) of desired compound I-23 as a yellow solid. 1H NMR (500 MHz, DMSO-d6) δ 10.86 (s, 1H), 7.89 (d, 2H), 7.71 (d, 1H), 7.35 (d, 1H), 7.15 (t, 1H), 7.09 (d, 2H), 7.00 (s, 1H), 3.84 (s, 3H), 2.44 (s, 3H) ppm. LC/MS: 282.1 (M+H), 280.0 (M−H), HPLC/Method A (Rt 6.268 min, 95.4% purity).

reactant | 2-(4-Methoxy-phenyl)-8-methyl-chromene-4-thione | 0.57 mmol, 160.0 mg | COC1=CC=C(C=C1)C=1OC2=C(C=CC=C2C(C1)=S)C | C17H14O2S
reactant | hydroxylamine hydrochloride | 1.70 mmol, 118.4 mg | Cl.NO
solvent | pyridine | 3.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Methoxy-phenyl)-8-methyl-chromen-4-one oxime | 137.0 mg, 85.7% yield | COC1=CC=C(C=C1)C=1OC2=C(C=CC=C2C(C1)=NO)C | C17H15NO3
